US06573270B1
N-[4-(1,3-benzodioxol-5-yl)-3-(2-hydroxyethoxy)-1-methyl-1H-pyrazol-5-yl]-5-isopropyl-2-pyridinesulfonamide
To a solution of 2-[(4-(1,3-benzodioxol-5-yl)-5-{bis[(5-isopropyl-2-pyridinyl)sulfonyl]amino}-1-methyl-1H-pyrazol-3-yl)oxy]ethyl acetate (Preparation 67) (9.0 g) in ethanol (200 ml) was added 2.0M aqueous sodium hydroxide (25 ml). The reaction was stirred for 30 min and concentrated under reduced pressure and the residue was poured onto 0.5M aqueous citric acid (300 ml). This was extracted with ethyl acetate (3×80 ml) and dried over magnesium sulfate. The solvent was removed under reduced pressure and the crude residue was purified by silica (230 g) chromatography eluting with a gradient of 50% ethyl acetate in hexane to 70% ethyl acetate in hexane to afford the title product as a white solid (5.0 g)

reactant | 2-[(4-(1,3-benzodioxol-5-yl)-5-{bis[(5-isopropyl-2-pyridinyl)sulfonyl]amino}-1-methyl-1H-pyrazol-3-yl)oxy]ethyl acetate | 9.0 g | C(C)(=O)OCCOC1=NN(C(=C1C1=CC2=C(OCO2)C=C1)N(S(=O)(=O)C1=NC=C(C=C1)C(C)C)S(=O)(=O)C1=NC=C(C=C1)C(C)C)C | C31H35N5O9S2
reactant | sodium hydroxide | 2.0M, 25 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-[4-(1,3-benzodioxol-5-yl)-3-(2-hydroxyethoxy)-1-methyl-1H-pyrazol-5-yl]-5-isopropyl-2-pyridinesulfonamide | 5.0 g | O1COC2=C1C=CC(=C2)C=2C(=NN(C2NS(=O)(=O)C2=NC=C(C=C2)C(C)C)C)OCCO | C21H24N4O6S
